US06458772B1
To a solution of 4-methoxybenzyl 5(N-CBz-L-valyloxy)-2,2-dimethylvalerate (8.24 g, 16.5 mmol) in CH2Cl2 (100 mL) at room temperature, was added trifluoroacetic acid (5 mL). After 1 h at room temperature, the reaction mixture was concentrated under reduced pressure. The crude product was column chromatographed (silica gel, 3→5% MeOH in CH2Cl2), to give 6.00 g of 5-(N-CBz-L-valyloxy)-2,2-dimethylvaleric acid. The compound can be activated and directly esterified to a drug or further modified as described below.

reactant | 4-methoxybenzyl 5(N-CBz-L-valyloxy)-2,2-dimethylvalerate | 16.5 mmol, 8.24 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCCCC(C(=O)OCC1=CC=C(C=C1)OC)(C)C | C28H37NO7
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-(N-CBz-L-valyloxy)-2,2-dimethylvaleric acid | 6.00 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCCCC(C(=O)O)(C)C | C20H29NO6
